US05358950
5 g of 4'-methoxymethyl-2-(4,4-dimethyl-2-oxazolinyl)biphenyl hydrochloride, prepared in B/, are dissolved in 75 ml of chloroform stabilised with amylene, and 3.2 ml of boron tribromide are added while cooling to 0° C. The mixture is stirred for one hour at 0° C. and washed with cold water. The organic phase is separated after settling has taken place, then dried over magnesium sulphate and evaporated under vacuum to give 5.2 g of 4'-bromomethyl-2-(4,4-dimethyl-2-oxazolinyl)biphenyl hydrochloride in the form of crystals of melting point 126°-127° C.

reactant | 4'-methoxymethyl-2-(4,4-dimethyl-2-oxazolinyl)biphenyl hydrochloride | 5 g | Cl.COCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1OCC(N1)(C)C
reactant | amylene | CC=C(C)C | C5H10
reactant | boron tribromide | 3.2 ml | B(Br)(Br)Br | BBr3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 4'-bromomethyl-2-(4,4-dimethyl-2-oxazolinyl)biphenyl hydrochloride | 5.2 g | Cl.BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C=1OCC(N1)(C)C | InChI=1S/C18H18BrNO.ClH/c1-18(2)12-21-17(20-18)16-6-4-3-5-15(16)14-9-7-13(11-19)8-10-14;/h3-10H,11-12H2,1-2H3;1H
